US09120822B2
2-(2-Bromo-ethylsulfanyl)-thiophene (317 mg, 0.13 mmol, 1.0 eq) is added at room temperature to a stirred solution of 1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-1H-pyrazol-4-ylamine (50 mg, 0.13 mmol, 1.0 eq) in acetonitrile (6 mL), followed by triethylamine (19 μL, 0.13 mmol, 1.0 eq). After 72 hours stirring at 80° C., the reaction mixture is concentrated to give a residue that is purified by column chromatography (silica gel, eluent: cyclohexane:ethyl acetate:methanol, 1:3:0 to 0:1:0 to 0:9:1, v/v/v) to afford [1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-1H-pyrazol-4-yl]-[2-(thiophen-2-ylsulfanyl)-ethyl]-amine as a brown viscous oil (9 mg, 14% yield).

reactant | 2-(2-Bromo-ethylsulfanyl)-thiophene | 0.13 mmol, 317 mg, 1.0 eq | BrCCSC=1SC=CC1 | C6H7BrS2
reactant | 1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-1H-pyrazol-4-ylamine | 0.13 mmol, 50 mg, 1.0 eq | COC=1C=C2C=3CC(COC3C=NC2=CC1)N1N=CC(=C1)N | C16H16N4O2
reactant | triethylamine | 0.13 mmol, 19 μL, 1.0 eq | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | [1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-1H-pyrazol-4-yl]-[2-(thiophen-2-ylsulfanyl)-ethyl]-amine | 9 mg, 14% yield | COC=1C=C2C=3CC(COC3C=NC2=CC1)N1N=CC(=C1)NCCSC=1SC=CC1 | C22H22N4O2S2
